US05723499
Following the basic procedure of Example 7(d), by reacting 1.96 g (7.8 mmol) of methyl 4-iodo-2-pyrrolecarboxylate with 940 μl (9.6 mmol) of 3-iodopropane, 1.48 g (64%) of methyl N-propyl-4-iodo-2-pyrrolecarboxylate was obtained in the form of a slightly yellow oil.

reactant | methyl 4-iodo-2-pyrrolecarboxylate | 7.8 mmol, 1.96 g | IC=1C=C(NC1)C(=O)OC | C6H6INO2
reactant | 3-iodopropane | 9.6 mmol, 940 μl | ICCC | C3H7I
product | methyl N-propyl-4-iodo-2-pyrrolecarboxylate | 1.48 g, 64% | C(CC)N1C(=CC(=C1)I)C(=O)OC | C9H12INO2
